US07026483B2
Trimethylsilyl trifluromethanesulfonate (7.6 g, 34.2 mmol, 1.1 eq) was added dropwise during 2 hours to a stirred mixture of N-[3-(dimethylamino)propyl]-6-allylergoline-8β-carboxamide (11.9 g, 31.5 mmol, 1 eq), triethylamine (3.8 g, 37.6 mmol, 1.2 eq) and dichloromethane (280 g) at −2° C. The mixture was stirred for 14 hours at 18° C. Ethyl isocyanate (11.1 g, 156.2 mmol, 5 eq) was added in one portion to the stirred mixture at 18° C. The obtained mixture was stirred for 48 hours at the same temperature. Tetrabutylammonium fluoride, 1.0 M solution in THF (30.4 g, 34.2 mmol, 1.1 eq) was added dropwise during 2 hours to the stirred mixture at −2° C. The reaction mixture was stirred for 2 hours at the same temperature and evaporated under reduced pressure. A solution of the residue in tert-butyl methyl ether was washed with aqueous solution of sodium bicarbonate and aqueous solution of sodium chloride, dried over sodium sulfate and passed through short silica gel column. The column was washed with acetone and the acetone solution was evaporated under reduced pressure to give 9.6 g (68.2%) of cabergoline as amorphous solid with 98% purity by HPLC. A hot solution of the amorphous cabergoline in tert-butyl methyl ether was kept at 0–5° C. for 60 hours. The precipitated solid was filtered off, washed on the filter with cold tert-butyl methyl ether and dried under reduced pressure at 15–25° C. to give 8.5 g (50%) solvate form A of cabergoline as white crystals with mp 66–70° C. and 99.8% purity by HPLC.

reactant | Trimethylsilyl trifluromethanesulfonate | 34.2 mmol, 7.6 g, 1.1 eq | FC(S(=O)(=O)O[Si](C)(C)C)(F)F | C4H9F3O3SSi
reactant | N-[3-(dimethylamino)propyl]-6-allylergoline-8β-carboxamide | 31.5 mmol, 11.9 g, 1 eq | CN(CCCNC(=O)[C@H]1CN([C@@H]2CC3=CNC4=CC=CC([C@H]2C1)=C34)CC=C)C | C23H32N4O
reactant | triethylamine | 37.6 mmol, 3.8 g, 1.2 eq | C(C)N(CC)CC | C6H15N
reactant | Ethyl isocyanate | 156.2 mmol, 11.1 g, 5 eq | C(C)N=C=O | C3H5NO
reactant | Tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | THF | 34.2 mmol, 30.4 g, 1.1 eq | C1CCOC1 | C4H8O
solvent | dichloromethane | 280 g | ClCCl | CH2Cl2
product | cabergoline | 9.6 g, 68.2% | CCNC(=O)N(CCCN(C)C)C(=O)[C@@H]1C[C@@H]2C3=CC=CC4=C3C(=CN4)C[C@H]2N(C1)CC=C | C26H37N5O2
